Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / codeine
 
Attending: ___
 
Chief Complaint:
difficulty breathing 
 
Major Surgical or Invasive Procedure:
___ EGD
___ Barium swallow
 
History of Present Illness:
___ female with a past medical history
of severe scoliosis and hiatal hernia, who presents with
difficulty breathing.

Patient reports that on ___ she began coughing and having
trouble breathing.  Episodes of cough would come and go, at 
times
severe.  On ___ she noted that she coughed a lot after her
dinner.  On ___ she presented to urgent care clinic with
continued coughing.  At that time, chest x-ray was done showing
no pneumonia.  She was prescribed Tessalon Perles and sent home. 

However, she notes that her shortness of breath and coughing was
not improved.  It was worse this morning, and therefore she
returned to urgent care clinic.  She was given a nebulizer and
inhaled corticosteroid per patient, with no improvement.  While
in urgent care clinic, she suddenly became unable to breathe at
all.  She states that the doctor tilted her head back and pushed
her time down which allowed her to breathe.  She also notes that
her oxygen levels were fine during this event.  She was given
Solumedrol 125, and racemic epi, and was sent to the emergency
department.  Patient states that she never had any fevers or
chills, no chest pain, no difficulty swallowing.  She notes that
while this seemed to worsen after dinner on ___, otherwise
it has not changed with meals.  She denies any weight loss.  No
abdominal pain, constipation, or diarrhea.
 
In the ED, initial vitals:  T 97.8, HR 95, BP 130/67, RR 16, 99%
RA 
 
Labs were significant for  
- CBC: WBC 6.3, Hgb 13.2, Plt 195

- Lytes:

142 / 106 / 16   
-------------- 102 
4.0 \ 20 \ 0.6 

 
- proBNP 245
- Lactate 1.9
- flu swab negative 

Imaging was significant for: chest x-ray showing significant
gaseous distension of the mid to upper esophagus, of unclear
etiology and significance. Neck soft tissue x-ray with
significant gaseous distension of the mid upper esophagus
possibly causing mass effect on the adjacent trachea, and no
convincing evidence for epiglottitis. 

Patient was seen by ENT, who did an exam showing mildly enlarged
epiglottis on exam, non-erythematous, edematous, no evidence of
infection. Mildly erythematous arytenoids, nonspecific.

GI also reviewed the case, who felt that the dilation is likely
chronic if no complaints of dysphagia, although will evaluate
formally in AM. Recommended patient to be NPO, ___ > 45 degrees. 


In the ED, pt received:
___ 18:23 IH Racepinephrine .5 mL 
___ 19:54 IVF  NS 1000 mL   
___ 20:23 IV Ampicillin-Sulbactam 3 g 
___ 20:30 IV Azithromycin (500 mg ordered) ___
21:32 PO Cepacol (Sore Throat Lozenge) 1 LOZ 

Vitals prior to transfer: HR 88, BP 137/63, RR 16, 97% RA 

Currently, patient states that she is feeling better, though she
continues to have cough at times. Otherwise recounts story as
above.  
 
ROS: Positive as noted above. Negative for: No fevers, chills,
night sweats, or weight changes. No changes in vision or 
hearing,
no changes in balance.  No chest pain or palpitations. No nausea
or vomiting. No diarrhea or constipation. No dysuria or
hematuria. No hematochezia, no melena. No numbness or weakness,
no focal deficits.  
 
Past Medical History:
- severe scoliosis
- "twisted colon" s/p partial resection
- hiatal hernia
- "toe operation"   
 
Social History:
___
Family History:
Reports "nothing" runs in the family. No family
members with cancer
 
Physical Exam:
Admission exam
VITALS: T 97.7, HR 72, BP 135/66, RR 18, 94% Ra 
GENERAL: Alert and in no apparent distress, sitting up in bed
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Notable scoliosis. Neck supple, moves all extremities,
strength grossly full and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge exam
Vitals reviewed and unremarkable, O2 saturations normal on room 
air, inputs and outputs reviewed and unremarkable.  Older woman 
seated in bed, alert, cooperative, NAD.  Occasional rare 
nonproductive cough, but for the most part she is speaking 
easily in full sentences with no work of breathing.  Equal chest 
rise good air movement bilaterally, somewhat asymmetric given 
her scoliosis, no significant adventitial sounds.  Heart 
regular.  Abdomen soft, NTND.  Extremities warm and 
well-perfused, no pitting edema.
 
Pertinent Results:
Admission labs
___ 05:20PM   PLT COUNT-212
___ 05:20PM   NEUTS-50.5 ___ MONOS-8.1 EOS-2.6 
BASOS-0.3 IM ___ AbsNeut-3.93 AbsLymp-2.96 AbsMono-0.63 
AbsEos-0.20 AbsBaso-0.02
___ 05:20PM   WBC-7.8 RBC-4.50 HGB-13.5 HCT-39.2 MCV-87 
MCH-30.0 MCHC-34.4 RDW-13.2 RDWSD-41.5
___ 05:20PM   cTropnT-<0.01
___ 05:20PM   estGFR-Using this
___ 05:20PM   GLUCOSE-110* UREA N-15 CREAT-0.7 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-21* ANION GAP-18
___ 06:15PM   PLT COUNT-195
___ 06:15PM   NEUTS-55.7 ___ MONOS-7.5 EOS-2.9 
BASOS-0.5 IM ___ AbsNeut-3.51 AbsLymp-2.08 AbsMono-0.47 
AbsEos-0.18 AbsBaso-0.03
___ 06:15PM   WBC-6.3 RBC-4.29 HGB-13.2 HCT-38.3 MCV-89 
MCH-30.8 MCHC-34.5 RDW-13.2 RDWSD-43.1
___ 06:15PM   CALCIUM-9.1 PHOSPHATE-3.5 MAGNESIUM-1.8
___ 06:15PM   proBNP-245
___ 06:15PM   GLUCOSE-102* UREA N-16 CREAT-0.6 SODIUM-142 
POTASSIUM-4.0 CHLORIDE-106 TOTAL CO2-20* ANION GAP-16
___ 06:25PM   LACTATE-1.9
___ 06:34PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

Microbiology
___ Culture, Routine-PENDING

Imaging/procedure
___ EGD -- "esophageal hiatal hernia"

___ barium swallow -- IMPRESSION:
1. Massively dilated thoracic esophagus with severe dysmotility. 
The distal
esophagus relaxes allowing passage of barium, inconsistent with 
achalasia.
2. Moderate to large sliding hiatal hernia with gastroesophageal 
reflux.
3. Penetration of thin liquids and moderate pharyngeal residue.  
No gross
aspiration on pharyngogram.

Discharge labs
___ 06:30AM BLOOD WBC-5.8 RBC-4.04 Hgb-12.3 Hct-35.7 MCV-88 
MCH-30.4 MCHC-34.5 RDW-12.9 RDWSD-42.2 Plt ___
___ 06:30AM BLOOD Glucose-122* UreaN-11 Creat-0.5 Na-143 
K-4.4 Cl-106 HCO3-22 AnGap-15
___ 06:30AM BLOOD Calcium-9.0 Phos-3.5 Mg-1.___ woman with a past medical history of dilated 
esophagus that has undergone previous evaluation, now admitted 
with intermittent cough.  Again discovered to have dilated 
esophagus, with features showing dysmotility and reflux but no 
achalasia.

Overall the patient did well during her admission.  She 
underwent upper endoscopy and barium swallow confirming her 
previously known dilated esophagus without features consistent 
with achalasia.  On the day of discharge we discussed the 
importance of aspiration precautions, and the fact that I would 
be offering a twice daily PPI to her to treat/prevent reflux, 
although she had previously noted that she did not want to be 
taking such a medication and had self-discontinued it before.

We reviewed her discharge plan, the importance of follow-up, and 
she had no additional questions for me.

DETAILS by PROBLEMS

#"massively dilated thoracic esophagus with severe dysmotility"
#"moderate to large sliding hiatal hernia with gastroesophageal 
reflux"
#"penetration of thin liquids and moderate pharyngeal residue"
-___ gastroenterology consulted
-Recommend aspiration precautions, and a PPI twice daily
-It seems that she has chosen not to take a PPI in the past, 
preferring to just drink "hot water"
-He was encouraged to follow-up with her primary care physician, 
who is aware of this evaluation, and can refer her as needed to 
a gastroenterologist in ___
–Chagas antibodies pending at the time of discharge (apparently 
Chagas disease can be associated with a dilated esophagus) -- if 
positive, the results will be conveyed to the primary care 
physician and the patient for further discussion

#Cough
-patient afebrile, no evidence of pneumonia on chest x-ray, flu 
swab negative
–Otorhinolaryngology evaluated her and noted ___ female who 
presents from urgent care for evaluation of stridor in the 
setting of dyspnea and cough over the past 24 hours. Per report, 
patient was stridulous when she presented to urgent care, where 
she was given a dose of solumedrol and racemic epinephrine with 
subsequent resolution of her stridor. She was then transferred 
to ___ for further workup. Upon interview, patient states that 
she has had no viral prodrome in recent days. Denies dysphagia, 
odynophagia, trismus, otalgia. Currently complains of minimal 
dyspnea; states that neck extension improves her symptoms. 
Denies smoking history. ORL consulted to evaluate upper airway 
in setting of recent history of stridor and question of possible 
epiglottitis on cervical x-ray obtained in ED. On exam, patient 
is breathing comfortably and quietly on room air with no 
evidence of stridor. No trismus or pain on neck movement. Voice 
not hoarse or muffled. Fiberoptic examination demonstrates 
normal nasopharynx, oropharynx, and larynx with exception of 
mild
erythema of the arytenoids bilaterally. Epiglottis is crisp 
without evidence of erythema/edema. Remainder of supraglottic 
with no evidence of inflammation. Glottis widely patent. Some 
pooling of secretions noted, possibly related to the distention 
of esophagus noted on CXR and cervical x-ray. In summary, this 
___ presenting with dyspnea and reported history of stridor has 
a patent airway with no threatening features. She has a history 
of heartburn with evidence of mild laryngopharyngeal reflux on 
exam.
Plan:
- airway widely patent, no threatening features; stable for 
admission to the regular nursing floor for workup of dyspnea and 
esophageal dilation
- no steroids indicated from ORL perspective
- recommend omeprazole 40 mg BID for treatment of LPR"

-The otorhinolaryngologist also indicated that follow-up could 
be arranged for the pharyngolaryngeal erythema/reflux noted on 
examination, and this recommendation was made to the patient

#Osteopenia - unknown doses of calcium, vit D - resumed at 
discharge 
#Scoliosis -bone health management as above
#S/p bowel resection - patient on multiple vitamins at home, 
unknown doses - resumed vitamins at discharge 

[x] The patient is safe to discharge today, and I spent [ ] 
<30min; [x] >30min in discharge day management services.

___, MD
___
Pager ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Multivitamins 1 TAB PO DAILY 
2. Ascorbic Acid ___ mg PO BID 
3. Vitamin D Dose is Unknown  PO Frequency is Unknown 
4. Fish Oil (Omega 3) Dose is Unknown  PO Frequency is Unknown 
5. Vitamin B Complex Dose is Unknown  PO Frequency is Unknown 
6. Magnesium Oxide Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Cepacol (Sore Throat Lozenge) 1 LOZ PO Q6H:PRN sore throat 
RX *dextromethorphan-benzocaine [Cepacol Sorethroat-Cough] 5 
mg-7.5 mg 1 lozenge(s) by mouth QID:PRN Disp #*32 Lozenge 
Refills:*0 
2.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Fish Oil (Omega 3) 1000 mg PO DAILY  
4.  Magnesium Oxide 400 mg PO DAILY  
5.  Vitamin B Complex 1 CAP PO DAILY  
6.  Vitamin D 800 UNIT PO DAILY  
7.  Ascorbic Acid ___ mg PO BID  
8.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Chronically dilated esophagus, no signs of achalasia
#Gastroesophageal reflux disease, with mild laryngopharyngeal 
erythema
#Scoliosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted having had some coughing and shortness of 
breath recently and some concern for stridor.  You were 
evaluated by the otorhinolaryngologist (ear nose throat 
surgeons) who found that you had no problems with your airway.  
They recommended you take an acid reducing medication for 
reflux.  They recommended that you follow-up with an ear nose 
throat surgeon in approximately ___ weeks
 
Followup Instructions:
___